US05130430
To a solution of 2-Nitrophenyl isocyanate (3.34 g) in 100 mL of toluene was added aniline (2 g). The mixture was stirred at 20° C. for 30 min. Hexane (300 mL) was added and the resulting solid was filtered and dried to yield N-(2-Nitrophenyl)-N'-phenyl-urea as a light yellow solid.

reactant | 2-Nitrophenyl isocyanate | 3.34 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
reactant | aniline | 2 g | NC1=CC=CC=C1 | C6H7N
reactant | Hexane | 300 mL | CCCCCC | C6H14
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Nitrophenyl)-N'-phenyl-urea | [N+](=O)([O-])C1=C(C=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H11N3O3
